US09290485B2
b) (1-Methyl-1,2,3,4-tetrahydroquinolin-7-yl)methanol
To a cooled (0° C.) solution of methyl 1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate (320 mg, 1.559 mmol) in THF (25 mL) was added a solution of DIBAL-H in THF (6.24 ml, 6.24 mmol). The reaction mixture was stirred for 3 hr at 0° C. The reaction mixture was treated with 30 mL of 10% aqueous sodium potassium tartrate and stirred for 2 h at 20° C. The mixture was extracted with AcOEt. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound. MS (Method A) [M+H]+=178.0

reactant | methyl 1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate | 1.559 mmol, 320 mg | CN1CCCC2=CC=C(C=C12)C(=O)OC | C12H15NO2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | sodium potassium tartrate | 30 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 6.24 mmol, 6.24 ml | C1CCOC1 | C4H8O
product | (1-Methyl-1,2,3,4-tetrahydroquinolin-7-yl)methanol | CN1CCCC2=CC=C(C=C12)CO | C11H15NO
